Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
simvastatin
 
Attending: ___.
 
Chief Complaint:
Abdominal hematoma
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ on Coumadin for hx of recurrent CVAs, most recently R
ponto-medullary infarct who initially was scheduled to undergo
left inguinal hernia repair on ___ with pre-operative
Coumadin to ___ who now presents with 11cm right 
sided
anterior rectus sheath hematoma. Patient was evaluated for
___ for left inguinal incarcerated hernia, which was reduced
and subsequently followed in general surgery clinic. As noted
earlier, he initially had an elective repair scheduled on
___ with Dr. ___. He was taken off Coumadin on ___, and started on Lovenox injections BID. Patient noticed
a small subcutaneous hematoma on ___, which progressively
enlarged into ___. He presented to the ED on 
___
with these complaints and was found to have a stable Hct of 39,
ultrasound was done in the ED demonstrating a 8.8 cm collection
in the right lower abdomen. Patient was discharged from the ED.
However, patient's wife states that there was progression in the
hematoma, with new overlying ecchymosis. 
 
Past Medical History:
- Basilar thrombosis with resultant infarcts in the cerebellum,
pons, and midbrain
- Hypertension
- Diabetes mellitus
- HLD
 
Social History:
___
Family History:
- No h/o strokes, clotting disorders
- Mother died of lung Ca (smoker)
 
Physical Exam:
Physical exam on admission:
Vitals: Stable
General: AAOx3
HEENT: EOMI
Cardiac: Normal S1, S2
Respiratory: Breathing comfortably on room air
Abdomen: Tense right abdomen, with overlying ecchymosis, left
abdomen soft. No rebound or guarding

Discharge Physical Exam:
VS: 98.2, 73, 106/62, 18, 98%ra
GEN: AA&O x 3, NAD, calm, cooperative. +dysarthria & dysphonia
CHEST: Clear to auscultation bilaterally, occasional cough
ABDOMEN: Right medial abdominal hematoma, decreasing in size 
from outline, fading ecchymosis, firm and tender on palpation 
but improved per patient
EXTREMITIES: Warm, well perfused, pulses palpable, - edema
 
Pertinent Results:
___ 07:15AM BLOOD Hct-31.5*
___ 03:45PM BLOOD Hct-33.1*
___ 10:15AM BLOOD WBC-7.5 RBC-3.74* Hgb-11.1* Hct-34.2* 
MCV-91 MCH-29.7 MCHC-32.5 RDW-12.5 RDWSD-41.8 Plt ___
___ 05:21AM BLOOD WBC-8.0 RBC-3.60* Hgb-10.9* Hct-33.1* 
MCV-92 MCH-30.3 MCHC-32.9 RDW-12.7 RDWSD-42.5 Plt ___
___ 10:40PM BLOOD WBC-7.9 RBC-3.99* Hgb-12.0* Hct-36.8* 
MCV-92 MCH-30.1 MCHC-32.6 RDW-12.5 RDWSD-41.7 Plt ___
___ 06:15AM BLOOD WBC-7.7 RBC-4.27* Hgb-12.8* Hct-39.1* 
MCV-92 MCH-30.0 MCHC-32.7 RDW-12.4 RDWSD-41.3 Plt ___
___ 10:40PM BLOOD Glucose-103* UreaN-13 Creat-0.8 Na-145 
K-4.1 Cl-109* HCO3-30 AnGap-10
___ 06:15AM BLOOD Glucose-89 UreaN-12 Creat-0.6 Na-142 
K-3.3 Cl-109* HCO3-29 AnGap-7*

___ Abdominal US
Complex multiloculated fluid collection largely subcutaneous 
collection measures up to 8.8 cm in the right lower quadrant and 
appears to extend deep within anterior abdominal wall soft 
tissues.  This likely represents hematoma although 
infection/superinfection cannot be excluded. 

___ Abd CT
Large right anterolateral abdominal wall subcutaneous tissue 11 
cm hematoma with associated induration of surrounding 
subcutaneous tissues which extends posteriorly along the right 
flank.  There is no intra-abdominal extension. 

 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on 
___ for evaluation and treatment of an abdominal hematoma.  
Admission  abdominal/pelvic CT revealed a large right 
anterolateral abdominal wall subcutaneous tissue 11 cm hematoma 
but had no intra-abdominal extension. The patient was 
hemodynamically stable. He was admitted for serial HCTs 
(36.8->33) with the plan to transfuse if hemodynamically 
unstable or hematocrit continued to drop, with possible ___ 
angiogram to find source. 
.
Hematocrit was stable and the patient remained stable with no 
signs of ongoing bleeding. Coumadin was restarted. Diet was 
progressively advanced as tolerated to a regular diet with good 
tolerability. The patient voided without problem. During this 
hospitalization, the patient was seen by Physical Therapy, who 
cleared him to be discharged home with home ___. The patient was 
adherent with respiratory toilet and incentive spirometry, and 
actively participated in the plan of care with the help and 
support of his wife. ___ boots were used during this stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The site of the abdominal hematoma was 
softer than on admission with slowly resolving ecchymosis. The 
patient was tolerating a regular diet, at his baseline of 
activity, voiding without assistance, and denied pain.  The 
patient was discharged home with ___ services and would resume 
his normal INR monitoring. The patient and his wife received 
discharge teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Warfarin 3 mg PO 3X/WEEK (___) 
4. Warfarin 6 mg PO 3X/WEEK (___) 
5. Lisinopril 20 mg PO DAILY 
6. Nuedexta (dextromethorphan-quinidine) ___ mg oral BID 
7. Glycopyrrolate 1 mg PO TID 
8. Doxazosin 4 mg PO HS 
9. ClonazePAM 0.5 mg PO DAILY 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. ClonazePAM 0.5 mg PO DAILY 
4. Doxazosin 4 mg PO HS 
5. Glycopyrrolate 1 mg PO TID 
6. Lisinopril 20 mg PO DAILY 
7. Nuedexta (dextromethorphan-quinidine) ___ mg oral BID 
8. Warfarin 3 mg PO 2X/WEEK (MO,TH) 
9. Warfarin 6 mg PO 5X/WEEK (___) 
10. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Abdominal wall hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
management of a hematoma of your abdominal wall after Lovenox 
injections. We monitored your blood count and exam, and you 
remained stable. We restarted your Coumadin on ___ at your 
home dose. You have had no episodes of bleeding and are ready 
for discharge home. 

Please follow these instructions to ensure an uneventful and 
speedy recovery:

*AVOID any activity that may cause injury to your abdominal area 
for the next ___ weeks.
 
*If you suddenly become dizzy, lightheaded, feeling as if you 
are going to pass out go to the nearest Emergency Room as this 
could be a sign that you are having more bleeding in your 
abdominal wall.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.
 
Followup Instructions:
___